US06313137B1
Synthesis of 8-(2-ethyl-6-methylbenzylamino)-N,N,2,3-tetramethylimidazo[1,2-a]pyridine-6-carboxamide
2,3-Dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylic acid (0.15 g, 0.44 mmol) and o-Benzotriazol-1-yl-N,N,N′,N′-Tetramethyluronium tetrafluoroborate (TBTU)(0.14 g, 0.44 mmol) were added to methylene chloride (10 ml). Dimethylamin (0.063 g, 1.4 mmol) was added and the reaction mixture was stirred at ambient temperature for 4 h. An additional amount of dimethylamin (0.1 ml) was added and the mixture was stirred at room temperature for 20 h. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography using methylene chloride:methanol (9:1) as eluent. The oily product was treated with heptane and the solid that formed was filtered off to give 0.1 g (62%) of the title compound.

reactant | 2,3-Dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylic acid | 0.44 mmol, 0.15 g | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)O)C1C | C20H23N3O2
reactant | o-Benzotriazol-1-yl-N,N,N′,N′-Tetramethyluronium tetrafluoroborate | 0.44 mmol, 0.14 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1
reactant | Dimethylamin | 1.4 mmol, 0.063 g | CNC | C2H7N
reactant | dimethylamin | 0.1 ml | CNC | C2H7N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 8-(2-ethyl-6-methylbenzylamino)-N,N,2,3-tetramethylimidazo[1,2-a]pyridine-6-carboxamide | 0.1 g, 62% | C(C)C1=C(CNC=2C=3N(C=C(C2)C(=O)N(C)C)C(=C(N3)C)C)C(=CC=C1)C | C22H28N4O
